US06022379
2-(4-acetyl-3,5-dimethyl-1H-pyrrol-2-yl)-[1,4]-naphthoquinone.
Among the pyrrole derivatives of 1,4-dihydroxynaphthalene which can be used according to the present invention, 2-(1-methyl-1H-pyrrol-2-yl)-[1,4]-dihydroxynaphthalene and methyl [5-(1,4-dihydroxynaphthalen-2-yl)-1-methyl-1H-pyrrol-2-yl]acetate are more particularly preferred.

reactant | pyrrole | N1C=CC=C1 | C4H5N
reactant | 1,4-dihydroxynaphthalene | OC1=CC=C(C2=CC=CC=C12)O | C10H8O2
reactant | methyl [5-(1,4-dihydroxynaphthalen-2-yl)-1-methyl-1H-pyrrol-2-yl]acetate | OC1=C(C=C(C2=CC=CC=C12)O)C1=CC=C(N1C)CC(=O)OC | C18H17NO4
product | 2-(4-acetyl-3,5-dimethyl-1H-pyrrol-2-yl)-[1,4]-naphthoquinone | C(C)(=O)C=1C(=C(NC1C)C=1C(C2=CC=CC=C2C(C1)=O)=O)C | C18H15NO3
